US07982067B2
i) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-{[(3′-hydroxy-1,1′-biphenyl-3-yl)methyl]oxy}ethoxy]hexyl}-1,3-oxazolidin-2-one
A stirred mixture of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-{[(3-iodophenyl)methyl]oxy}ethoxy]hexyl}-1,3-oxazolidin-2-one (300 mg), 3-hydroxphenylboronic add (102 mg), tripotassium phosphate (417 mg) and dichlorobis(triphenylphosphine)palladium(II) (100 mg) in dimethoxymethane (10 ml) under nitrogen was heated under reflux for 4 h. The mixture was cooled to 20° and diluted with water (50 ml). The mixture was extracted with EtOAc (2×25 ml) and the combined extracts washed with water (50 ml) and dried (Na2SO4). Solvent evaporation in vacuo gave a residue which was purified by Biotage. Elution with diethyl ether gave the title compound (130 mg). LCMS RT=3.74 min, ES +ve 593 (MNH4)+.

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-{[(3-iodophenyl)methyl]oxy}ethoxy]hexyl}-1,3-oxazolidin-2-one | 300 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC2=CC(=CC=C2)I)C | C28H36INO6
reactant | tripotassium phosphate | 417 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethoxymethane | 10 ml | COCOC | C3H8O2
solvent | water | 50 ml | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-{[(3′-hydroxy-1,1′-biphenyl-3-yl)methyl]oxy}ethoxy]hexyl}-1,3-oxazolidin-2-one | 130 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)C2=CC(=CC=C2)O)C | C34H41NO7
